// Generated for: spectre
// Generated on: Jan 11 23:02:55 2017
// Design library name: adc_sampler_2
// Design cell name: tran_test
// Design view name: schematic
simulator lang=spectre
global 0
parameters cap=1p res=500 vdc=0.5
include "/tools/tstech16/CLN16FFC/PDK/tsmcN16/../models/toplevel.scs" section=top_tt

// Library name: adc_sampler_2
// Cell name: tran_test
// View name: schematic
C1 (vo2 0) capacitor c=cap
C0 (vo1 0) capacitor c=cap
R2 (0 vo2) resistor r=res
R1 (vo1 vo2) resistor r=res
R0 (vin vo1) resistor r=res
V0 (vin 0) vsource dc=vdc mag=1 type=pulse val0=0 val1=1 period=100n \
        delay=100p rise=1p fall=1p width=50n
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=10e3 stop=100e9 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
save vin vo1 vo2 V0:p 
saveOptions options save=selected
